US07101898B2
Methanesulfonic Acid 4-[(E)-3-oxo-3-((S)-2-((piperidin-1-yl)methyl)pyrrolidin-1-yl)propenyl]phenyl Ester
230 mg of the title compound were synthesized as described for (E)-3-(4-bromophenyl)-1-((S)-2-((pyrrolidin-1-yl)methyl)pyrrolidin-1-yl)propenone, using (E)-3-(4-(methanesulfonyloxy)phenyl)acrylic acid instead of (E)-4-bromocinnamic acid and 1-(((S)-pyrrolidin-2-yl)methyl)piperidine instead of (S)-2-((pyrrolidin-1-yl)methyl)pyrrolidine.

reactant | (E)-3-(4-(methanesulfonyloxy)phenyl)acrylic acid | CS(=O)(=O)OC1=CC=C(C=C1)/C=C/C(=O)O | C10H10O5S
reactant | 1-(((S)-pyrrolidin-2-yl)methyl)piperidine | N1[C@@H](CCC1)CN1CCCCC1 | C10H20N2
product | Methanesulfonic Acid 4-[(E)-3-oxo-3-((S)-2-((piperidin-1-yl)methyl)pyrrolidin-1-yl)propenyl]phenyl Ester | 230 mg | O=C(/C=C/C1=CC=C(C=C1)OS(=O)(=O)C)N1[C@@H](CCC1)CN1CCCCC1 | C20H28N2O4S
